US07786307B2
c) tert-Butyl (3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methyl-1(S)-vinylpentyl)carbamate
The mixture of 2.38 g of potassium bis(trimethylsilyl)amide in 50 ml of diethyl ether is cooled to 0° C., admixed with 4.04 g of methyltriphenylphosphonium bromide and stirred over 30 minutes. The solution of 1.70 g of tert-butyl (1(S)-formyl-3(S)-{[2-(3-methoxypropoxy)-benzoylamino]methyl}4-methylpentyl)carbamate in 20 ml of diethyl ether is added dropwise. The reaction mixture is stirred at room temperature over 1 hour and subsequently poured onto 1M ammonium chloride solution and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a slightly yellowish oil. Rf=0.36 (1:1 EtOAc-heptane); Rt=5.05 (gradient I).

reactant | potassium bis(trimethylsilyl)amide | 2.38 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | tert-butyl (1(S)-formyl-3(S)-{[2-(3-methoxypropoxy)-benzoylamino]methyl}4-methylpentyl)carbamate | 1.70 g | C(=O)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C24H38N2O6
reactant | ammonium chloride | 1M | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | methyltriphenylphosphonium bromide | 4.04 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | tert-Butyl (3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methyl-1(S)-vinylpentyl)carbamate | COCCCOC1=C(C(=O)NC[C@@H](C[C@@H](C=C)NC(OC(C)(C)C)=O)C(C)C)C=CC=C1 | C25H40N2O5
